US03946111
1,2-Dihydro-2,2-dimethyl-9-hydroxy-7-(3-methyl-2-octyl)-4-oxo-4H-thieno-[2,3-c][1] benzopyran
To 100 ml. of ethanol was added 6.2 g. of 5-(3-methyl-2-octyl)resorcinol and 6.2 g. of ethyl 5,5-dimethyl-3-oxotetrahydrothiophene-2-carboxylate. The mixture was cooled in ice and hydrogen chloride was bubbled in for one-half hour. The mixture was stoppered and held at room temperature for 3 days. It was then concentrated and ether added, extracted with water and then washed with dilute aqueous sodium bicarbonate solution. The etheral solution was dried over magnesium sulfate and concentrated. The product was crystallized from acetonitrile to give 5.0 g., m.p. 155°-163°C.

reactant | 5-(3-methyl-2-octyl)resorcinol | CC(C(C)C=1C=C(C=C(O)C1)O)CCCCC | C15H24O2
reactant | ethyl 5,5-dimethyl-3-oxotetrahydrothiophene-2-carboxylate | CC1(CC(C(S1)C(=O)OCC)=O)C | C9H14O3S
solvent | ethanol | C(C)O | C2H6O
product | 1,2-Dihydro-2,2-dimethyl-9-hydroxy-7-(3-methyl-2-octyl)-4-oxo-4H-thieno-[2,3-c][1] benzopyran | CC1(CC2=C(C(OC3=C2C(=CC(=C3)C(C)C(CCCCC)C)O)=O)S1)C | C22H30O3S
